US07011838B2
Using 0.50 g of (2,4,6-trifluorobenzyl)malononitrile, 10 ml of N,N-di-methylformamide, 0.11 g of sodium hydride (60% in oil), and 0.46 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.07 g of 2-(2,4,6-trifluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (17)).

reactant | (2,4,6-trifluorobenzyl)malononitrile | 0.50 g | FC1=C(CC(C#N)C#N)C(=CC(=C1)F)F | C10H5F3N2
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 0.46 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-di-methylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2,4,6-trifluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.07 g, Yield: 10% | FC1=C(CC(C#N)(C#N)CCC(F)(F)F)C(=CC(=C1)F)F | C13H8F6N2
